US05173484
b) 3-Cyclopropylaminomethyl-3-hydroxypyrrolidine dihydrochloride
7.9 g (24.7 mmol) of 1-benzyl-3-cyclopropylaminomethyl-3-hydroxypyrrolidine dichloride in 100 ml of methanol are hydrogenated on 2 g of palladium/active carbon (10%) at 50° C. and 100 bar. The product is filtered off with suction and concentrated, and the residue is triturated with butanol. The crystalline salt is filtered off with suction, washed with acetone and dried.

reactant | 1-benzyl-3-cyclopropylaminomethyl-3-hydroxypyrrolidine dichloride | 24.7 mmol, 7.9 g | [Cl-].[Cl-].C(C1=CC=CC=C1)N1CC(CC1)(O)CNC1CC1
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium | 2 g | [Pd] | Pd
product | 3-Cyclopropylaminomethyl-3-hydroxypyrrolidine dihydrochloride | Cl.Cl.C1(CC1)NCC1(CNCC1)O | InChI=1S/C8H16N2O.2ClH/c11-8(3-4-9-5-8)6-10-7-1-2-7;;/h7,9-11H,1-6H2;2*1H
